Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
none

attach
 
Pertinent Results:
Admission Labs:
===============
___ 07:45AM BLOOD WBC-4.3 RBC-3.74* Hgb-11.0* Hct-34.8 
MCV-93 MCH-29.4 MCHC-31.6* RDW-13.5 RDWSD-46.0 Plt ___
___ 07:45AM BLOOD Neuts-60.2 ___ Monos-8.9 Eos-0.0* 
Baso-0.0 Im ___ AbsNeut-2.57 AbsLymp-1.30 AbsMono-0.38 
AbsEos-0.00* AbsBaso-0.00*
___ 07:45AM BLOOD ___ PTT-30.2 ___
___ 07:45AM BLOOD Glucose-101* UreaN-15 Creat-0.5 Na-141 
K-5.4 Cl-104 HCO3-22 AnGap-15

Discharge Labs:
===============
___ 07:40AM BLOOD WBC-4.7 RBC-3.62* Hgb-10.7* Hct-33.8* 
MCV-93 MCH-29.6 MCHC-31.7* RDW-13.4 RDWSD-46.2 Plt ___
___ 07:40AM BLOOD ___ PTT-31.9 ___
___ 07:40AM BLOOD Glucose-84 UreaN-13 Creat-0.6 Na-141 
K-4.4 Cl-105 HCO3-26 AnGap-10
___ 07:40AM BLOOD ALT-12 AST-13 LD(LDH)-154 AlkPhos-63 
TotBili-0.6
___ 07:40AM BLOOD Albumin-3.7 Calcium-9.4 Phos-3.2 Mg-2.0
 
Brief Hospital Course:
Ms. ___ is a ___ female with a history of pre-diabetes, 
diverticulosis, gastric adenoma and recent H pylori (diagnosed 
on EGD, now s/p triple therapy) who
presents with 3 days of painless bright red blood per rectum.  

ACUTE/ACTIVE PROBLEMS:

# BRBPR
# Acute blood loss anemia
# Diverticulosis
Presented with small amount of bright red blood per rectum. She 
had recent colonoscopy around one month ago. She was outside the 
window for post-polypectomy bleed.
Differential includes diverticular bleed vs. anorectal bleeding. 
Labs were notable for Hg of 11 (down from 12.9 on ___. 
Decision was made to admit for monitoring.
She had no further bleeding after admission and Hg remained 
stable. Hg was 10.7 at time of discharge.
GI did not recommend inpatient colonoscopy. She and her daughter 
were advised that she should follow up with her outpatient 
gastroenterologist after discharge.

> 30 minutes spent on discharge coordination and planning

CHRONIC/STABLE PROBLEMS:

# Glaucoma - recently s/p surgery to right eye. Continued home 
eye drops
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 40 mg PO DAILY 
2. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE QID 
3. Vitamin D 1000 UNIT PO DAILY 
4. ofloxacin 0.3 % ophthalmic (eye) r eye QID 

 
Discharge Medications:
1.  ofloxacin 0.3 % ophthalmic (eye) r eye QID  
2.  Omeprazole 40 mg PO DAILY  
3.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE QID  
4.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Lower GI bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came in with blood in your stool. Your blood counts remained 
stable and you did not have any further bleeding. The GI doctors 
did not think that you needed a procedure while you were in the 
hospital.

However, it will be very important to follow up with your 
gastroenterologist as an outpatient. You should also follow up 
with your primary doctor within the next week to have your blood 
counts rechecked.

If you have any new or worsening bleeding, please return to the 
ED immediately.

It was a pleasure taking care of you, and we are happy that 
you're feeling better!
 
Followup Instructions:
___